US07618975B2
(4-Amino-phenyl)-(2-methyl-quinazolin-4-yl)-methyl-amine
A mixture of (2-methyl-quinazolin-4-yl)-(4-nitro-phenyl)-methylamine (200 mg, 0.68 mmol) in 25 mL of ethyl acetate was hydrogenated over Palladium on carbon (70 mg) at 50 psi for 4 h, and the reaction mixture was filtered through a pad of celite and concentrated. The resulting crude product was purified by chromatography (50% ethyl acetate/hexane) to obtain the title compound (140 mg, 78%). 1H NMR (CDCl3): 7.71 (m, 1H), 7.51 (ddd, J=8.4, 6.9, 1.5, 1H), 7.09 (m, 1H), 6.93-7.05 (m, 3H), 6.68 (m, 2H), 3.74 (s, broad, 2H), 3.56 (s, 3H), 2.71 (s, 3H).

reactant | (2-methyl-quinazolin-4-yl)-(4-nitro-phenyl)-methylamine | 0.68 mmol, 200 mg | CC1=NC2=CC=CC=C2C(=N1)N(C)C1=CC=C(C=C1)[N+](=O)[O-] | C16H14N4O2
solvent | ethyl acetate | 25 mL | C(C)(=O)OCC | C4H8O2
catalyst | Palladium on carbon | 70 mg | [Pd] | Pd
product | (4-Amino-phenyl)-(2-methyl-quinazolin-4-yl)-methyl-amine | 140 mg, 78% | NC1=CC=C(C=C1)N(C)C1=NC(=NC2=CC=CC=C12)C | C16H16N4
